US04919708
A stirred mixture of 2.0 g (0.0067 mole) of 1-(4-chloro-2-fluoro-5-methoxyphenyl)-3-difluoromethyl-4,5-dihydro-1,2,4-triazol-5(1H)-one and 2.1 g (0.015 mole) of potassium carbonate in 50 mL of acetone was heated at reflux for 30 minutes forming a thick slurry. Iodomethane (4.3 g, 0.03 mole) was added in one portion to the refluxing reaction mixture. After complete addition the mixture was stirred at reflux for 45 minutes. The mixture was cooled to room temperature and the solvent evaporated under reduced pressure leaving a solid residue. This residue was partitioned between water and methylene chloride. The two phase mixture was filtered through a celite pad. The organic phase was removed and was washed in succession with four portions of an aqueous 10% sodium hydroxide solution, and one portion each of an aqueous 10% hydrochloric acid solution, a saturated aqueous sodium carbonate solution, and water. After washing, the organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to yield 1.6 g of 1-(4-chloro-2-fluoro-5-methoxyphenyl)-3-difluoromethyl-4,5-dihydro-4-methyl-1,2,4-triazol-5(1H)-one. A portion of this material was recrystallized from ethanol and water to provide the product as a light tan solid (mp 127°-129° C.), Compound 22.

reactant | 1-(4-chloro-2-fluoro-5-methoxyphenyl)-3-difluoromethyl-4,5-dihydro-1,2,4-triazol-5(1H)-one | 0.0067 mole, 2.0 g | ClC1=CC(=C(C=C1OC)N1N=C(NC1=O)C(F)F)F | C10H7ClF3N3O2
reactant | potassium carbonate | 0.015 mole, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | Iodomethane | 0.03 mole, 4.3 g | IC | CH3I
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 1-(4-chloro-2-fluoro-5-methoxyphenyl)-3-difluoromethyl-4,5-dihydro-4-methyl-1,2,4-triazol-5(1H)-one | 1.6 g | ClC1=CC(=C(C=C1OC)N1N=C(N(C1=O)C)C(F)F)F | C11H9ClF3N3O2
